data/rgd1/barriers/filtered.csv
rxn,smiles,ea
MR_19798_0,[C@:1]([C:3]([H:15])([H:16])[H:17])(/[C:5](=[C:4](\[O:7][H:8])[H:10])[H:11])([O:6][C:2]([H:12])([H:13])[H:14])[H:9]>>[C:1](\[C:3]([H:15])([H:16])[H:17])(=[C:5](\[C@@:4]([O:6][C:2]([H:12])([H:13])[H:14])([O:7][H:8])[H:10])[H:11])[H:9],58.44911499999384
MR_302920_0,[C:1]([C:2]([C:5]([H:20])([H:21])[H:22])([C:6]([H:19])([H:23])[H:24])[O:9][H:10])([C:3]([H:14])([H:15])[H:16])([C:4]([H:13])([H:17])[H:18])[O:8][N:7]([H:11])[H:12]>>[C:1]([C:2]([C:5]([H:20])([H:21])[H:22])([C:6]([H:19])([H:23])[H:24])[O:8][N:7]([H:11])[H:12])([C:3]([H:14])([H:15])[H:16])([C:4]([H:13])([H:17])[H:18])[O:9][H:10],66.21066249998023
MR_183721_1,[C:1]([C:5]1([C:2]([H:16])([H:18])[H:19])[C:3]([N:6]([H:9])[H:10])([N:7]([H:11])[H:12])/[C:4]1=[N:8]/[H:13])([H:14])([H:15])[H:17]>>[C:1]([C:5]([C:2]([H:16])([H:18])[H:19])=[C:3](/[C:4]([N:7]([H:11])[H:12])=[N:8]\[H:13])[N:6]([H:9])[H:10])([H:14])([H:15])[H:17],54.13818999999876
MR_535839_2,[C:1]1([C:2]([H:11])([H:12])[H:13])([C:3]([H:14])([H:15])[H:16])[C@:5]([C:4]([H:17])([H:18])[H:19])([O:7][H:10])[N:8]1[O:6][H:9]>>[C:1]([C:2]([H:11])([H:12])[H:13])([C:3]([H:14])([H:15])[H:16])([C:4]([H:17])([H:18])[H:19])/[C:5]([O:7][H:10])=[N:8]\[O:6][H:9],60.780277499993645
MR_378948_1,[C:1]([N:5]([O:8][H:9])[H:10])([C:6]([C:2]([H:13])([H:14])[H:15])=[C:7]([C:3]([H:17])([H:18])[H:19])[C:4]([H:16])([H:20])[H:21])([H:11])[H:12]>>[C:1](=[C:6]([C:2]([H:13])([H:14])[H:15])[C:7]([C:3]([H:17])([H:18])[H:19])([C:4]([H:16])([H:20])[H:21])[N:5]([O:8][H:9])[H:10])([H:11])[H:12],59.90742499998589
MR_24950_0,[C:1]([C:2]([O:7][H:10])([H:11])[H:12])([C:3]([C:5](=[O:8])[H:15])([H:13])[H:14])([C:4]([H:16])([H:17])[H:18])[O:6][H:9]>>[C:1]([C:3]([C:5]([C:2]([O:7][H:10])([H:11])[H:12])([O:8][H:9])[H:15])([H:13])[H:14])([C:4]([H:16])([H:17])[H:18])=[O:6],62.15826749997447
MR_704003_1,[C:1](/[C:4](=[C:2](/[N:5]([H:10])[H:11])[N:9]=[C:3]([N:6]([H:12])[H:13])[N:7]([H:14])[H:15])[N:8]([H:16])[H:17])([H:18])([H:19])[H:20]>>[C:1]([C:4]1([N:8]([H:16])[H:17])[C:2]([N:5]([H:10])[H:11])=[N:9][C:3]1([N:6]([H:12])[H:13])[N:7]([H:14])[H:15])([H:18])([H:19])[H:20],37.722789999996
MR_663895_1,[C:1]1([H:7])([H:8])[C@:3]([C:4]([C:2]([H:12])([H:13])[H:14])([H:10])[H:11])([H:9])[C:5]1=[C:6]([H:15])[H:16]>>[C:1](/[C:3](=[C:4](/[C:2]([H:12])([H:13])[H:14])[H:10])[H:9])([C:5](=[C:6]([H:15])[H:16])[H:11])([H:7])[H:8],72.55719750000793
MR_371469_2,[C:1]([C:2]([H:12])([H:13])[H:14])([C:3]([H:11])([H:15])[H:16])([C:4]([N:5]([H:9])[H:10])=[O:7])[O:6][H:8]>>[C:1]([C:3]([H:11])([H:15])[H:16])([C:4]([C:2]([H:12])([H:13])[H:14])([N:5]([H:9])[H:10])[O:7][H:8])=[O:6],55.48668750001838
MR_664033_0,[C@:1]([C:2]([O:8][N:6]([H:10])[H:11])([H:14])[H:15])([N:5]([C:3]([H:16])([H:17])[H:18])[C:4]([H:19])([H:20])[H:21])([N:7]([H:12])[H:13])[H:9]>>[C@:1]([C:2]([N:5]([C:3]([H:16])([H:17])[H:18])[C:4]([H:19])([H:20])[H:21])([H:14])[H:15])([N:7]([H:12])[H:13])([O:8][N:6]([H:10])[H:11])[H:9],71.46409249998555
MR_352965_1,[C:1]([C:5]([C:2]([H:16])([H:17])[H:18])=[O:9])([C:6]([C:3]([H:19])([H:20])[H:21])=[C:4]([N:7]([H:10])[H:11])[N:8]([H:12])[H:13])([H:14])[H:15]>>[C:1](=[C:6]([C:3]([H:19])([H:20])[H:21])[C:4]([C:5]([C:2]([H:16])([H:17])[H:18])=[O:9])([N:7]([H:10])[H:11])[N:8]([H:12])[H:13])([H:14])[H:15],67.54723749999428
MR_636485_0,[C@:1]([C:2]([H:15])([H:16])[H:17])(/[C:4]([C:3]([H:18])([H:19])[H:20])=[C:7](/[N:6]([H:12])[H:13])[H:14])([N:5]([H:10])[H:11])[O:8][H:9]>>[C@@:1]1([C:2]([H:15])([H:16])[H:17])([N:5]([H:10])[H:11])[C@@:4]([C:3]([H:18])([H:19])[H:20])([O:8][H:9])[C@@:7]1([N:6]([H:12])[H:13])[H:14],53.27600499999974
MR_474421_1,[C:1]([N:3]([H:10])[H:11])([N:4]([H:12])[H:13])([O:7][H:9])[N:8]=[C:2]([N:5]([H:14])[H:15])[N:6]([H:16])[H:17]>>[C:1](\[N:3]([H:10])[H:11])([O:7][H:9])=[N:8]/[C:2]([N:4]([H:12])[H:13])([N:5]([H:14])[H:15])[N:6]([H:16])[H:17],53.5665374999796
MR_434542_0,[C:1]([n:2]1[c:4](=[O:8])[n:3]([H:9])[c:7]([H:12])[c:5]1[N:6]([H:10])[H:11])([H:13])([H:14])[H:15]>>[C:1](/[N:2]=[C:5](\[N:6]([H:10])[H:11])[C:7]1([H:12])[N:3]([H:9])[C:4]1=[O:8])([H:13])([H:14])[H:15],72.68897249999625
MR_313018_0,[C:1]1([N:6]([H:8])[H:9])([H:7])[C:3]([H:12])([H:13])[C:2]([H:10])([H:11])[N:5]1[C:4]([H:14])([H:15])[H:16]>>[C:1](\[C:3]([C:2]([N:5]([C:4]([H:14])([H:15])[H:16])[H:9])([H:10])[H:11])([H:12])[H:13])(=[N:6]/[H:8])[H:7],48.54277249996514
MR_163062_1,[C:1]([N:3]([H:10])[H:11])(=[O:5])[N:6]([N:2]([H:8])[H:9])[C:4](=[O:7])[H:12]>>[C:1](\[N:3]([H:10])[H:11])([O:5][C:4](=[O:7])[H:12])=[N:6]/[N:2]([H:8])[H:9],63.341732499982726
MR_256969_0,[C:1]([C:2]([C:3]([C:6]([H:23])([H:24])[H:25])([H:15])[H:16])([N:8]([H:13])[H:14])[H:12])([C:4]([H:18])([H:19])[H:20])([C:5]([H:17])([H:21])[H:22])[C:7]([O:9][H:11])=[O:10]>>[C:1](/[C:2](=[N:8]/[H:14])[H:12])([C:4]([H:18])([H:19])[H:20])([C:5]([H:17])([H:21])[H:22])[C:7]([C:3]([C:6]([H:23])([H:24])[H:25])([H:15])[H:16])([O:9][H:11])[O:10][H:13],73.04601999998653
